US04933355
5(2-Morpholinothiazol-4-ylmethylene)rhodanine-3-acetic acid
The reaction described in Example 1 was repeated, but using 1.65 g of 2-morpholinothiazole-4-carbaldehyde, 1.3 g of rhodanine-3-acetic acid, 1g of ammonium chloride, 1 ml of 28% v/v aqueous ammonia and 35 ml of ethanol, giving the title compound as yellow needles.

reactant | 2-morpholinothiazole-4-carbaldehyde | 1.65 g | O1CCN(CC1)C=1SC=C(N1)C=O | C8H10N2O2S
reactant | rhodanine-3-acetic acid | 1.3 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 5(2-Morpholinothiazol-4-ylmethylene)rhodanine-3-acetic acid | O1CCN(CC1)C=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)O)=O | C13H13N3O4S3
